US04250085
In a manner analogous to that described in Example 1(B)(ii), from the monobenzylamine salt of (1R)-1-[(N-allyl-N-benzyloxycarbonyl-glycyl-L-alanyl-L-alanyl)amino]-ethylphosphonic acid, but using water/ethanol (1:1) for the ion-exchange step to generate the free acid, there was obtained, after hydrogenolysis of the N-benzyloxycarbonyl group in the usual way but with concomitant reduction of the allyl group to the n-propyl group, the crude product in the form of a gel. Crystallisation from water/ethanol gave (1R)-1-[N-(n-propyl)-glycyl-L-alanyl-L-alanylamino]-ethylphosphonic acid of melting point 263°-264° C. (decomposition); [α]D20 =-110°; [α]36520 =-392° (c=1% in water).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-allyl-N-benzyloxycarbonyl-glycyl-L-alanyl-L-alanyl)amino]-ethylphosphonic acid | C(C=C)N(CC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O)C(=O)OCC1=CC=CC=C1 | C21H31N4O8P
solvent | water ethanol | O.C(C)O
product | (1R)-1-[N-(n-propyl)-glycyl-L-alanyl-L-alanylamino]-ethylphosphonic acid | C(CC)NCC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C13H27N4O6P
